US04314842
A 300 milliliter, 3-neck flask equipped with a magnetic stirrer, thermometer, dry ice condenser/drying tube and inlet from a phosgene (COCl2) tank via a calibrated rotometer was charged with 50 milliliters of ethyl acetate and then with 20 grams of phosgene. An additional 50 milliliters of ethylacetate and 6.6 grams (0.035 mole) of 5-(1-methylthio-1-methylethyl)-2-amino-1,3,4-thiadiazole (prepared above) at a temperature of 0° C. was added. The resulting mixture was stirred for 17 hours at room temperature and then the flask was purged with nitrogen until no COCl2 was detected. The slurry was filtered, and the filter cake was dried in a vacuum oven to a m.p. of 161°-164° C., and the filtrate was topped on a roto-vac to yield more crystals with a m.p. of 161°-162° C., which were combined with the first crystals to yield 7.1 grams of 5-(1-methylthio-1-methylethyl)-1,3,4-thiadiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 20 grams | C(=O)(Cl)Cl | CCl2O
reactant | 5-(1-methylthio-1-methylethyl)-2-amino-1,3,4-thiadiazole | 0.035 mole, 6.6 grams | CSC(C)(C)C1=NN=C(S1)N | C6H11N3S2
solvent | ethylacetate | 50 milliliters | C(C)OC(C)=O | C4H8O2
solvent | ethyl acetate | 50 milliliters | C(C)(=O)OCC | C4H8O2
product | 5-(1-methylthio-1-methylethyl)-1,3,4-thiadiazol-2-yl isocyanate | 7.1 grams | CSC(C)(C)C1=NN=C(S1)N=C=O | C7H9N3OS2
